US05869519
N-[(1,3-Dimethylindole-2-Carbonyl)Valinyl]-3-Amino-4-Hydroxy-5-Fluoropentanoic Acid, t-Butyl Ester
4-Dimethylaminopyridine (DMAP) (67 mg, 0.55 mmol) and 1-(3'-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDAC) (125 mg, 0.65 mmol) were added as solids to a DMF solution of 1,3-dimethylindole-2-carboxylic acid (95 mg, 0.5 mmol in 1 mL of DMF), and the resultant reaction mixture was stirred for 10 minutes under a nitrogen atmosphere at 0° C. A methylene chloride solution of N-(valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester (153 mg, 0.5 mmol in 1 mL of methylene chloride) was added and the resultant reaction mixture was first stirred for 1 hour at 0° C. and then for 4 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and 5% KHSO4 solution and the aqueous solution was back-extracted with ethyl acetate. The combined ethyl acetate solutions were washed with 5% KHSO4 solution, saturated sodium bicarbonate solution (2×), and brine, dried over sodium sulfate, and concentrated to give a solid. The solid was triturated with ether/hexane to yield the title product as a white solid (134 mg, 56%). TLC: (ethyl acetate/hexanes, 2:1): Rf =0.42. 1H NMR (CDCl3): δ 7.59 (d, J=8.8, 1H) , 7.37 (d, J=7.7, 1H), 7.29-7.24 (m, 1H), 7.12-7.07 (m, 1H), 4.49-4.26 (m, 5H), 3.81-3.79 (m, 3H), 2.66-2.47 (m, 5H), 2.22-2.10 (m, 1H), 1.45-1.41 (m, 9H), 1.09-1.03 (m, 6H).

reactant | 1-(3'-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.65 mmol, 125 mg | Cl.CN(CCCN=C=NCC)C
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1,3-dimethylindole-2-carboxylic acid | 0.5 mmol, 1 mL, 95 mg | CN1C(=C(C2=CC=CC=C12)C)C(=O)O | C11H11NO2
reactant | N-(valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester | 0.5 mmol, 1 mL, 153 mg | N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C14H27FN2O4
catalyst | 4-Dimethylaminopyridine | 0.55 mmol, 67 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[(1,3-Dimethylindole-2-Carbonyl)Valinyl]-3-Amino-4-Hydroxy-5-Fluoropentanoic Acid, t-Butyl Ester | 134 mg, 56% | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C25H36FN3O5
